US20010027196A1
6-Furan-2-yl-5-iodo-N4-propyl-pyrimidine-2,4-diamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine and propylamine in THF. ES-MS m/e (%): 345 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | propylamine | C(CC)N | C3H9N
solvent | THF | C1CCOC1 | C4H8O
product | 6-Furan-2-yl-5-iodo-N4-propyl-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCC)I | C11H13IN4O
